US04376776
83 g (0.6 mole) of potassium carbonate were added to a solution of 262 g (1.2 moles) of 7-chlorodibenzofuran-3-ol in 600 ml of dry dimethylformamide, and a solution of 212 g (2.55 moles) of ethylene carbonate in 300 ml of dimethylformamide was then added dropwise at 100° C. in the course of 90 minutes. The mixture was stirred at 120° C. for 8 hours and filtered off with suction at 100° C., and the filtrate was concentrated. The residue was dissolved in 2.5 l of ethyl acetate, the solution was washed three times with 300 ml of water each time, the organic layer was dried, decolorized with 10 g of animal charcoal and concentrated to 500 ml and the concentrate was cooled to 10° C. The precipitate was filtered off with suction and washed, at +5° C., with 60 ml of methanol, 50 ml of ether and 200 ml of petroleum ether in succession, and dried. 225 g of 2-(7-chlorodibenzofuran-3-oxy)-ethanol of melting point 118°-120° C. were obtained; yield: 71.4% of theory.

reactant | potassium carbonate | 0.6 mole, 83 g | C([O-])([O-])=O.[K+].[K+]
reactant | 7-chlorodibenzofuran-3-ol | 1.2 moles, 262 g | ClC1=CC2=C(C3=C(O2)C=C(C=C3)O)C=C1 | C12H7ClO2
reactant | ethylene carbonate | 2.55 moles, 212 g | C1(OCCO1)=O | C3H4O3
solvent | dimethylformamide | 600 ml | CN(C=O)C | C3H7NO
solvent | dimethylformamide | 300 ml | CN(C=O)C | C3H7NO
product | 2-(7-chlorodibenzofuran-3-oxy)-ethanol | 225 g, yield: 71.4% | ClC1=CC2=C(C3=C(O2)C=C(C=C3)OCCO)C=C1 | C14H11ClO3
